US07320979B2
15.3 N-[5-(4-Allylpiperazin-1-yl)pyridin-2-yl]-4-isopropylbenzenesulfonamide hydrochloride
520 mg (2.38 mmol) of 5-(4-allylpiperazin-1-yl)pyridin-2-ylamine and 495 mg (2.26 mmol) of 4-isopropylbenzenesulfonyl chloride were dissolved in 5 ml of tetrahydrofuran at room temperature, after which 1.0 ml (7.15 mmol) of triethylamine was added dropwise and the mixture was stirred at 40-50° C. for 6 hours. After the solvent had been evaporated down to dryness, the resulting residue was treated with water and this mixture was made acid using 1N aqueous hydrochloric acid and extracted twice with diethyl ether. The aqueous phase was made alkaline, to pH 9-10, using a 1N aqueous solution of sodium hydroxide and then extracted twice with ethyl acetate. After the combined organic phases had been dried over sodium sulfate, the drying agent had been filtered off and the solvent had been evaporated down to dryness, the resulting residue was chromatographed on silica gel using ethyl acetate. After the solvent had been removed, the resulting residue was brought into solution using a little diethyl ether in dichloromethane and then converted into the hydrochloride using ethereal hydrochloric acid. 415 mg (44% of theory) of the title compound were obtained.

reactant | 5-(4-allylpiperazin-1-yl)pyridin-2-ylamine | 2.38 mmol, 520 mg | C(C=C)N1CCN(CC1)C=1C=CC(=NC1)N | C12H18N4
reactant | 4-isopropylbenzenesulfonyl chloride | 2.26 mmol, 495 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | triethylamine | 7.15 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[5-(4-Allylpiperazin-1-yl)pyridin-2-yl]-4-isopropylbenzenesulfonamide hydrochloride | Cl.C(C=C)N1CCN(CC1)C=1C=CC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | InChI=1S/C21H28N4O2S.ClH/c1-4-11-24-12-14-25(15-13-24)19-7-10-21(22-16-19)23-28(26,27)20-8-5-18(6-9-20)17(2)3;/h4-10,16-17H,1,11-15H2,2-3H3,(H,22,23);1H
